* trafos.lib

* LInear transformer model with coupling K and given AL.
* Inductance L = AL * N * N
* Primary inductance    L1(from N1), series resistor R1
* Secondary inductance  L2(from N2), series resistor R2
* Coupling factor       K <=1
* Ideal transformer voltage(turns) ratio = N2/N1 = SQRT(L2/L1)
*
.SUBCKT TRAFO 1 2 3 4  N1={N1} N2={N2}  K12={K}
+ Rser1={R1} Rser2={R2}
*
.PARAM LP1= {AL*N1*N1}
.PARAM LP2= {AL*N2*N2}
*
L1 1 2   {LP1}  Rser={Rser1}
L2 3 4   {LP2}  Rser={Rser2}
K12 L1 L2 {K12}
*
.ENDS TRAFO





.subckt TrafoLin 1 2 3 4  
LP 1 2 {LP} 
LS 3 4 {LS}
KT LP LS {KT}
.ends TrafoLin
*-----------------------------------------------------------------------------
.SUBCKT TRAF150W 1 2 3 4 5 6 
*
L1 1 2 {L1}  Rser={R1}
L2 3 4 {L2}  Rser={R2}
L3 5 6 {L3}  Rser={R3}
K123 L1 L2 L3 {K}
*
.ENDS TRAF150W
*
*
*
*Ideal transformers subcircuits.
*Design by Christophe Basso
*Adapted for LTSpice by Yuri Krivtsov
*Last modified April 2008
***************************************

.SUBCKT XFMR1 1 2 3 4 PARAMS: {RATIO}=1
RP 1 2 1MEG
E1 5 4 1 2 {RATIO}
F1 1 2 VM  {RATIO}
RS 6 3 1U
VM 5 6 
.ENDS XFMR1

.SUBCKT XFMR2 1 2 3 4 10 11 PARAMS: {RATIO1}=1 {RATIO2}=1
RP 1 2 1MEG
E1 5 4 1 2 {RATIO1}
F1 1 2 VM1 {RATIO1}
RS1 6 3 1U
VM1 5 6
E2 20 11 1 2 {RATIO2}
F2 2 1 VM2 {RATIO2}
RS2 21 10 1U
VM2 20 21 
.ENDS XFMR2

.SUBCKT XFMR-TAP 1 2 3 4 5 PARAMS: {RATIOT}=1
* RATIO is the ratio of the output voltage across each tap V(3,4) or V(4,5)
* divided by the input voltage V(1,2). The voltage gain across each tap is
* RATIO and the gain across both taps is 2*RATIO.
E1 7 8 1 2 {RATIOT}
F1 1 2 VM1 {RATIOT}
RP 1 2 1MEG
RS 6 3 1U
VM1 7 6
E2 9 5 1 2 {RATIOT} 
F2 1 2 VM2 {RATIOT}
R5 8 4 1U
VM2 9 8
.ENDS XFMR-TAP
*
+-----------------------------------------------------------------------------
.SUBCKT OPT 1 2 3 4 5 6 7 8 9  ; PARAMETERS FOR 500C:
+PARAMS: LPRIM=88 LLKG=0.005 RPRIM=240 CPRIM=0.99nF LRATIO={4/6600}

* 500C: LPRIM=88 LLKG=.010 RPRIM=250 CPRIM=1.04NF LRATIO={4/6600}

* LPRIM  IS THE TOTAL PRIMARY L (VARIES WITH MEASUREMENT).
* LLKG   IS THE LEAKAGE L (MEASURABLE: CONSISTENT).
* RPRIM  IS THE TOTAL PRIMARY R
* CPRIM  IS THE MEASURED PRIMARY CAPACITANCE.
* LRATIO IS THE INDUCTANCE RATIO: (4 OHMS)/(PRIMARY Z).

.PARAM QFCTR={LPRIM/LLKG}  ; Q-FACTOR.
CS1 1 5    {CPRIM}     ; PRIMARY CAPACITANCE
RS1 1 5    300K        ; SHUNT R FOR HIGH FREQUENCY EFFECTS.
LP1 1 12   {LPRIM*.09} ; PRIMARY
RP1 12 2   {RPRIM*.5}
LP2 2 3    {LPRIM*.04} 
LP3 3 4    {LPRIM*.04}
LP4 4 45   {LPRIM*.09}
RP4 45 5   {RPRIM*.5}
LP5 7 6    {.34315*LPRIM*LRATIO} ; 8-16  OHM WINDING: (2-SQRT(2))^2
LP6 8 7    {.17157*LPRIM*LRATIO} ; 4-8   OHM WINDING: (SQRT(2)-1)^2
LP7 9 8    {LPRIM*LRATIO}        ; COM-4 OHM WINDING
KALL LP1 LP2 LP3 LP4 LP5 LP6 LP7 {1-1/(2*QFCTR)}  ; COUPLING
.ENDS OPT
*-----------------------------------------------------------------------------
* Subcircuit for Parmeko mains transformer model 6000/71
*
* Primary 230/240V AC
*
* Secondary 318V AC @ 300mA DC
*           6.3V AC @ 5A
*
* D.Munro - 10/4/97
*
* 10/04/97  Initial model
*
* 02/05/97  Model changed to take out leaked inductance/capacitance etc.
*           Also "leak" resistors put in to stop error messages when windings
*           were left unconnected.
*
*
* Pin 1   Mains neutral
*     2   Mains 230V tap
*     3   Mains 240V tap
*
*     4,5 318V AC
*     6,7 6.3V AC
*
.SUBCKT 6K71 1 2 3 4 5 6 7
*
* Primary
*
Rpri1   1       10      5.7
Lpri1   10      2       5.1H
Rpri2   2       11      0.5
Lpri2   11      3       10mH
Rleak1  0       1       1000MEG
Rleak2  0       2       1000MEG
Rleak3  0       3       1000MEG
*
* HV Secondary
*
Rsec1   4       20      18
Lsec1   20      21      4.8H
Rsec2   21      22      7.5
Lsec2   22      5       1.17H
Rleak4  0       4       1000MEG
Rleak5  0       5       1000MEG
*
* Heater secondary
*
Rsec3   6       30      0.025
Lsec3   30      31      1.09mH
Rsec4   31      32      0.025
Lsec4   32      7       1.09mH
Rleak6  0       6       1000MEG
Rleak7  0       7       1000MEG
*
* Coupling
*
K1      Lpri1 Lpri2 Lsec1 Lsec2 Lsec3 Lsec4 0.997
.ENDS
* Transformer Specified With Inductance Per Coil
* "Primary" inductance    L1, series resistor R1
* "Secondary" inductance  L2, series resistor R2
* "Secondary" inductance  L3, series resistor R3
* Coupling factor       K123 <=1
* Ideal transformer voltage ratio = SQRT(L2/L1), SQRT(L3/L1)
*------------------------------------------------------------------------------
*
* Trace Elliot Velocette 12R Mains Transformer
* Part no. 73 TRAN 15W VG2
*
* [1] Brown ---. || .--- Purple		 [5]
*              ) || (
*        120V  ) || (  28V
*              ) || .--- Purple          [6]
* [2] Blue  ---. || .--- Red		 [7]
*                || (
* [3] Brown ---. || (
*              ) || (  313V
*        120V  ) || (
*              ) || .--- Black           [8]
* [4] Blue  ---. ||
*		 || .--- Grey		 [9]
*		 || (
*		 || .--- Green	6.3V CT	 [10]
*		 || (
*		 || .--- Grey		 [11]
*
.SUBCKT tracevg2 1 2 3 4 5 6 7 8 9 10 11
*
* Primary
*
Lleak1  1       20      10mH
Lpri1   20      21      120H
Rpri1   21      2       13.0
Lleak2  3       22      10mH
Lpri2   22      23      120H
Rpri2   23      4       11.7
*
* Secondary (28V off load)
*
Lsec28	5	25	6.5H
Rsec28  25      6	2.6
*
* Secondary (313V off load)
*
Lsec313	7	26	816.4H
Rsec313 26	8	75.5
*
* Secondary (7.3V off load, centre tapped)
*
Lsec73a	9	27	111mH
Rsec73a 27	10	0.15
Rsec73b	10	28	0.15
Lsec73b	28	11	111mh
Kcoup   Lpri1 LPri2 Lsec28 Lsec313 Lsec73a Lsec73b 1.0
.ENDS 
*---------------------------------------------------------------
*
* Trace Elliot 15W output transformer, 8k primary, 16/8 ohm sec.
* Part no. 73 TRAN 15W OP
*
* [1] Red   ---. ||
*              ) || .--- Green (16 ohm)  [4]
*              ) || (
*              ) || (
* [2] White ---. || .--- Yellow (8 ohm)  [5]
*              ) || (
*              ) || (
*              ) || .--- Brown           [6]
* [3] Blue  ---. ||
*
.SUBCKT trace15 1 2 3 4 5 6
*
* Primary
*
Lleak1  1       20      2mH
Lpri1   20      21      150H
Rpri1   21      2       186
Cpri1   1       2       120p
Lleak2  2       22      2mH
Lpri2   22      23      150H
Rpri2   23      3       201
Cpri2   2       3       120p
*
* Secondary
*
Lleak3  5       24	10uH
Lsec1   24      25      0.6H
Rsec1   25      6       0.8
Lleak4  4	    27	10uH
Lsec2	  27      28	0.3H
Rsec2	  28	    5	      0.4

Kcoup   Lpri1 LPri2 Lsec1 Lsec2 1.0
.ENDS 
*-------------------------------------------------------------------
*
* Trace Elliot 50W output transformer, part 73-TRAN-50WOP
*
* D.Munro 10/4/97
*
* Pin 1   anode'
*     2   HT
*     3   anode''
*
*     4,5 output 16 ohm
*
* Note that altough the transformer is tapped 4/8/16 ohms, only the
* 16 ohm output is modelled.
*
.SUBCKT trace50 1 2 3 4 5
L12	in1	in2	41.02m
C1_1	in2	2	-797.5p
Rdc1	in1	N61	60.55
Lmag	in1	2	99.45
Rcore	in1	2	2.458Meg
Rac1	N61	1	63.93
Lac1	N61	1	0.1083
L23	in2	in3	78.28m
C2_23	3	5	831.3p
C3_23	3	N43	503.0p
Efwd2	N82	3	in2	2	1.000
Vsens2	N82	N42	
Ffbk2	in2	2	Vsens2	1.000
C1_2	N82	3	251.9p
Rdc2	N42	N62	61.68
Rac2	N62	2	62.58
Lac2	N62	2	0.2074
Efwd3	N83	5	in3	2	0.1352
Vsens3	N83	N43	
Ffbk3	in3	2	Vsens3	0.1352
C1_3	N83	5	2.426p
Rdc3	N43	N63	0.8561
Rac3	N63	4	1.501
Lac3	N63	4	694.1u
.ENDS
*---------------------------------------------------------------------
.SUBCKT PAT-4006-CFB 1 2 3 4 5 6 7 8 9 10 11
* PLITRON PAT-4006-CFB OUTPUT TRANSFORMER 2KOHM UL PRIMARY
* OL NUMBERS CORRESPOND TO TRANSFORMER SCHEMATIC.
.PARAM PRIML=392.5     ; TOTAL PRIMARY L (FROM SPECS).
.PARAM LRATIO={5/2000} ; INDUCTANCE RATIO: (5 OHMS)/(PRIMARY).
.PARAM QFCTR=400000     ; Q-FACTOR: PRIMARY SHUNT L/LEAKAGE L.
LP1 1 2   {PRIML*.09}     ; PRIMARY
LP2 2 3   {PRIML*.04}
LP3 3 4   {PRIML*.04}
LP4 4 5   {PRIML*.09}   
CP1 1 5   .342NF      ; CAPACITANCE FROM SPECS
LP5 8 7   {PRIML*LRATIO/4}  ; 1/2 SPEAKER SECONDARY
LP6 7 6   {PRIML*LRATIO/4}  ; " "
LP7 11 10 {PRIML*LRATIO}    ; 1/2 FBK WINDING
LP8 10 9  {PRIML*LRATIO}    ; " "
KALL LP1 LP2 LP3 LP4 LP5 LP6 LP7 LP8 .9999987 ; 1-1/(2*403600) AWESOME!
.ENDS

.SUBCKT DYNA_OUTPUT_XFRMR 1 2 3 4 5 6 7 8 9  ; PARAMETERS FOR MARK 3:
+PARAMS: LPRIM=60 LLKG=.040 RPRIM=125 CPRIM=1.04NF LRATIO={4/4300}

* ERIC BARBOUR ARTICLE:  ~233H TOTAL PRIMARY L FOR MARK 3.
* MARK 3: LPRIM=60 LLKG=.040 RPRIM=125 CPRIM=1.04NF LRATIO={4/4300}

* LPRIM  IS THE TOTAL PRIMARY L (VARIES WITH MEASUREMENT).
* LLKG   IS THE LEAKAGE L (MEASURABLE: CONSISTENT).
* RPRIM  IS THE TOTAL PRIMARY R.
* CPRIM  IS THE MEASURED PRIMARY CAPACITANCE.
* LRATIO IS THE INDUCTANCE RATIO: (4 OHMS)/(PRIMARY Z).

.PARAM QFCTR={LPRIM/LLKG}  ; Q-FACTOR.
CS1 1 5    {CPRIM}     ; PRIMARY CAPACITANCE
RS1 1 5    300K        ; SHUNT R FOR HIGH FREQUENCY EFFECTS.
LP1 1 12   {LPRIM*.09} ; .7164H  ; PRIMARY
RP1 12 2   {RPRIM*.5}
LP2 2 3    {LPRIM*.04} ; .3184H
LP3 3 4    {LPRIM*.04}
LP4 4 45   {LPRIM*.09}
RP4 45 5   {RPRIM*.5}
LP5 7 6    {.34315*LPRIM*LRATIO} ; 8-16  OHM WINDING: (2-SQRT(2))^2
LP6 8 7    {.17157*LPRIM*LRATIO} ; 4-8   OHM WINDING: (SQRT(2)-1)^2
LP7 9 8    {LPRIM*LRATIO}        ; COM-4 OHM WINDING
KALL LP1 LP2 LP3 LP4 LP5 LP6 LP7 {1-1/(2*QFCTR)}  ; COUPLING
.ENDS
**********************************************************************
* This is the push pull output transformer file
* for valve amplifiers.
*
* Americans please note that Raa (Resistance Anode to Anode) is equiverlent to
* your Rpp (Resistance Plate to Plate)
*
* Formula taken from the electronics designers handbook 1957 4-10
*
* Raa = Rp1 + Rp2 + 4(Rl+Ro)(Np/Ns)^2
*
* Np  = Number of turns in one-half primary winding
* Ns  = Number of turns in secondry winding
* Rp1 = resistance of primary winding connected to V1
* Rp2 = resistance of primary winding connected to V2
* Rl  = resistance of load on the secondry winding
* Ro  = resistance of secondry winding
*
* Neglecting transformer resistance we can simplify to
*
* Raa = 4Rl(Np/Ns)^2
*
* I have used simplified formulas, and chosen winding resistances that 
* tie to the winding resistances of the push pull output transformers 
* on the Sowter transformers website. These models have been tested with
* large number of simulations of Ampeg, Gibson, Hiwatt, Marshall, Laney, 
* Selmar and Kelly guitar amplifiers. 
*
* The output valves include the following combinations
*
* 1, 2 and 3 pairs of 6550A's (100, 200 and 300 Watts output)
* 1 and 2 pairs of EL34's     (50, 70, 100 and 152 Watts output) 
* 1 and 2 pairs of 7027A's    (50, 74, 100 and 158 Watts output)
*
* Netlist (c)2006 Suusi Malcolm-Brown feel free to copy and use for any reason
* excepting spam 
*
* Feedback to Suusi Malcolm-Brown smalcolmbrown@yahoo.co.uk
*
**********************************************************************
*
*	16 and 8 ohm output
*
* This file is couples to pushpull.asy
* 
*   1   L1    2   L2    3
*   |  _____  |  _____  |
*   --|_____|---|_____|--
*      
*      _____     _____  
*   --|_____|---|_____|--
*   |         |         |
*   4  L3     5   L4     6
*
.SUBCKT pushpull 1 2 3 4 5 6
.param La = (Raa/(8*4))
.param Lb = 1
.Param Lc = 0.18
.param Ra1 = Raa/50
L1 1 2 {La} Rser={Ra1} Rpar=1Meg Cpar=240p
L2 2 3 {La} Rser={Ra1} Rpar=1Meg Cpar=240p
L3 4 5 {lb} Rser=0.22 Rpar=1Meg 
L4 5 6 {Lc} Rser=0.08 Rpar=1Meg 
K1 L1 L2 L3 L4 0.995
.ENDS
* 
**********************************************************************
*
*	16 ohm output impedence
*
* This file is couples to pushpull_16.asy 
*
*   1   L1    2   L2    3
*   |  _____  |  _____  |
*   --|_____|---|_____|--
*      
*           _____    
*        --|_____|--
*        |         |
*        4   L3    5
*
.SUBCKT pushpull_16 1 2 3 4 5
.param La = (Raa/(16*4))
.param Lb = 1
.param Ra1 = Raa/50
L1 1 2 {La} Rser={Ra1} Rpar=1Meg Cpar=240p
L2 2 3 {La} Rser={Ra1} Rpar=1Meg Cpar=240p
L3 4 5 {lb} Rser=0.22 Rpar=1Meg 
K1 L1 L2 L3 0.995
.ENDS
* 
**********************************************************************
*
*	8 ohm output impedence
*
* This file is couples to pushpull_8.asy
*
*   1   L1    2   L2    3
*   |  _____  |  _____  |
*   --|_____|---|_____|--
*      
*           _____    
*        --|_____|--
*        |         |
*        4   L3    5
*
.SUBCKT pushpull_8 1 2 3 4 5
.param La = (Raa/(8*4))
.param Lb = 1
.param Ra1 = Raa/50
L1 1 2 {La} Rser={Ra1} Rpar=1Meg Cpar=240p
L2 2 3 {La} Rser={Ra1} Rpar=1Meg Cpar=240p
L3 4 5 {lb} Rser=0.22 Rpar=1Meg 
K1 L1 L2 L3 0.995
.ENDS
*
**********************************************************************
* 
*	A generic pushpull output transformer allowing the user 
*   to define custom output impedenced.   
*
* This file is couples to pushpull_generic.asy
*
*
*   1   L1    2   L2    3
*   |  _____  |  _____  |
*   --|_____|---|_____|--
*      
*           _____    
*        --|_____|--
*        |         |
*        4   L3    5
*
.SUBCKT pushpull_A 1 2 3 4 5
.param La = (Raa/(Rl*4))
.param Lb = 1
.param Ra1 = Raa/50
L1 1 2 {La} Rser={Ra1} Rpar=1Meg Cpar=240p
L2 2 3 {La} Rser={Ra1} Rpar=1Meg Cpar=240p
L3 4 5 {lb} Rser=0.22 Rpar=1Meg 
K1 L1 L2 L3 0.995
*
**********************************************************************
*